US07250433B2
To a solution of the 2-cyclohexyl-1-(2-trityl-2H-tetrazol-5-yl)-cyclopropanecarbonitrile (1.10 g, 2.39 mmol) in 50 mL 2.0M NH3 in EtOH was added RaNi (1.4 g), and the mixture was hydrogenated in a Parr shaker at 48 psi for 60 h. The mixture was filtered and concentrated. Flash chromatography of the residue on silica gel (0.25:1.25:3.5 conc. NH4OH (aq):MeOH:CH2Cl2) furnished 0.19 g (36%) of C-[2-cyclohexyl-1-(1H-tetrazol-5-yl)-cyclopropyl]-methylamine as a colorless solid. 1H NMR (CD3OD) δ 3.97 (d, J=13.2 Hz, 1H, —CH2NH2), 2.96 (d, J=13.2 Hz, 1H, —CH2NH2), 1.87 (m, 1H), 1.77 (m, 1H), 1.68 (m, 2H), 1.47 (m, 1H), 1.38 (m, 1H), 1.12-1.31 (m, 6H), 1.07 (m, 1H), 0.91 (dd, J=4.6, 6.6 Hz, 1H, cyclopropyl —CHH). LRMS: m/z 220.2 (M−1). Anal. Calc'd for C11H19N5: C, 59.70; H, 8.65; N, 31.65. Found: C, 58.39; H, 8.54; N, 31.20.

reactant | 2-cyclohexyl-1-(2-trityl-2H-tetrazol-5-yl)-cyclopropanecarbonitrile | 2.39 mmol, 1.10 g | C1(CCCCC1)C1C(C1)(C#N)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N5
solvent | NH3 | 2.0M, 50 mL | N | H3N
solvent | EtOH | CCO | C2H6O
catalyst | RaNi | 1.4 g | [Ni] | Ni
product | C-[2-cyclohexyl-1-(1H-tetrazol-5-yl)-cyclopropyl]-methylamine | 0.19 g, 36% | C1(CCCCC1)C1C(C1)(C1=NN=NN1)CN | C11H19N5
